### PR TITLE
[Merged by Bors] - feat(Algebra): add Aesop automation around `Even` / `IsSquare`

### PR DESCRIPTION
**Pull request by artie2000**
* Add `aesop` attributes to enable automation for goals of the form `Even x`, `IsSquare x` and `IsSumSq x`
* Add test examples
* Replace some existing proofs with `by aesop`

The automation follows the principles of #25961 (see the file Mathlib/Tactic/SetLike.lean for documentation).

---

- [x] depends on: #25961

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Even.lean [hunk 1]
```diff
@@ -128,46 +130,53 @@ lemma isSquare_iff_exists_sq (a : α) : IsSquare a ↔ ∃ r, a = r ^ 2 := by si
...
+@[to_additive (attr := aesop unsafe 90%)]
+lemma IsSquare.mul [CommSemigroup α] {a b : α} : IsSquare a → IsSquare b → IsSquare (a * b) :=
+  fun ⟨r, _⟩ ⟨s, _⟩ => ⟨r * s, by simp_all [mul_mul_mul_comm]⟩
 
 section DivisionMonoid
 variable [DivisionMonoid α] {a : α}
 
 @[to_additive (attr := simp)] lemma isSquare_inv : IsSquare a⁻¹ ↔ IsSquare a := by
-  constructor <;> intro h <;> simpa using (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
+  constructor <;> exact fun h => by simpa using (isSquare_op_iff.mpr h).map (MulEquiv.inv' α).symm
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Even.lean]: Not sure why this change

File: Mathlib/Algebra/Ring/SumsOfSquares.lean [hunk 2]
```diff
@@ -111,19 +112,22 @@ In an additive commutative monoid with multiplication,
...
+@[simp↓]
 theorem IsSumSq.sum_mul_self [AddCommMonoid R] [Mul R] {ι : Type*} (I : Finset ι) (a : ι → R) :
-    IsSumSq (∑ i ∈ I, a i * a i) := .sum fun _ _ => .mul_self _
+    IsSumSq (∑ i ∈ I, a i * a i) := by aesop
 
 @[deprecated (since := "2024-12-27")] alias isSumSq_sum_mul_self := IsSumSq.sum_mul_self
 
+@[simp↓]
+theorem IsSumSq.sum_sq [CommSemiring R] {ι : Type*} (I : Finset ι) (a : ι → R) :
+    IsSumSq (∑ i ∈ I, (a i) ^ 2) := by aesop
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/SumsOfSquares.lean]:
```suggestion
    IsSumSq (∑ i ∈ I, a i ^ 2) := by aesop
```

File: Mathlib/Algebra/Group/Even.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/Algebra/Group/Even.lean]: reverted

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
